Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Left hip pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ M presenting with atraumatic left hip and and low back pain 
worse with standing, relieved with rest, no trauma, no 
neurological symptoms, normal rectal tone, large left inguinal 
hernia, unable to reduce.  Unable to ambulate, so admitted.  He 
was evaluated by Gen Surgery in the ED, who felt the hernia was 
stable, and not related to current complaints.
. 
Pt states that the pain is severe, ___. There is pain 
localized L hip region, which starts L anterior pelvis at 
midline, and wraps around pelvis to posterior L spine.  Pain 
worse with leg movement.  Sharp. Relieved somewhat with rest.  
Pt also notes history of bilateral leg pain, which starts at 
hips and radiates downt to feet B; does not have currently, and 
pt unable to describe if similar pain to hip pain, or if similar 
onset.  Pt does note that the leg pain improves when leaning 
over a shopping cart.  Pt is unclear if the hip pain improves 
with this as well, as he has been unable to ambulate.
.
Of note, multiple phone calls logged in on Epic.  ___, called 
complaining of shortness of breath as well as ? rib vs chest 
pain.  Earlier, called about hip pain.  ___, called about 
chalky feeling in throat and difficulty walking as well as cold 
extremities; was advised to suck on candy and push fluids. He 
was seen by PCP ___ ___ for hip pain.  The PCP noted that the 
pain might be due to decreased exercise and recommended that 
patient start to exercise more.  Hip film ordered but never 
performed.  
.
Pt also notes significant SOB, DOE, 3 pillow orthopnea (same as 
prior), and increased weight gain recently.  He states his dry 
weight is 274-275, and states more recently has been 285-286.  
He states he drinks "a lot of water", but has difficulty 
quatifying.  Estimated a little more than a liter, but this 
estimate is suspect.  States he reads labels, and eats low 
sodium, but does not add numbers to ensure <2gm/day.  He uses 
CPAP, but is not religious about it, and states he tries to use 
it for 6 hrs per night, but it is unclear if he is successful in 
this goal.
.
ED Course:
Triage vitals: T 97.4 HR 78  BP 136/87  RR 17  SpO2 92% RA 
- plain films L-spine hip and pelvis
- trial of ambulation, unable to stand ___ pain in hip
- CT pelvis negative for fracture and L-spine showed no fracture 
but showed ? gas in back, thought to be incidental 
- left inguinal hernia with bowel - failed attempt to reduce x 2
- attempt ___ x 20 minutes and reduction, if failed call 
surgery
Seen by surgery in ED and found to have b/l Hernias, not 
believed to be source of pain.
- Given Percocet x 1, ativan 2 mg x1 
.
Admission Vitals: 
P 71 BP 127/71 RR 16 ___ NL 
.
REVIEW OF SYSTEMS:
CONSTITUTIONAL:        [] All Normal
[ ] Fever  [ ] Chills   [ ] Sweats  [ ] Fatigue   [x ] Malaise   
[ ]Anorexia  [ ]Night sweats
[ ] _10____ lbs.    weight  gain   
HEENT:          [] All Normal
[ ] Blurred vision   [ ] Blindness  [ ] Photophobia
[ ] Decreased acuity [ ] Dry mouth  [ ] Bleeding gums
[ ] Oral ulcers  [ ] Sore throat    [ ] Epistaxis  [ ] Tinnitus
[ ] Decreased hearing    [ ]Tinnitus [ x] Other: "chalk" in 
throat
RESPIRATORY:    [] All Normal
[x ] SOB     [x ] DOE    [ x] Can't walk 2 flights     [ ] Cough
[ x] Wheeze  [ ] Purulent sputum    [ ] Hemoptysis   [ 
]Pleuritic pain 
[ ] Other:
CARDIAC:        []  All Normal
[ ] Angina    [ ] Palpitations   [x ] Edema   [x ] PND
[x ] Orthopnea  (3 pillow)  [x ] Chest Pain [ ] Other:
GI:             [] All Normal
[ x] Blood in stool  (on paper, not in stool)   [ ] Hematemesis  
   [ ] Odynophagia
[ ] Dysphagia:   [ ] Solids    [ ] Liquids
[ ] Anorexia    [] Nausea  [] Vomiting   [ ] Reflux
[ x] Diarrhea occas    [ x] Constipation occas []  Abd pain  [ ] 
Other:
GU:             [] All Normal
[ ] Dysuria      [ ] Frequency    [ ] Hematuria  []Discharge 
[]Menorrhagia  
[x] incontinence
SKIN:           [] All Normal
[x ] Rash        [ ] Pruritus
MS:             [] All Normal
[ ] Joint pain    [ ] Jt swelling   [ x] Back pain  [ ] Bony 
pain
NEURO:          [] All Normal
[ ] Headache    [ ] Visual changes   [ ] Sensory change [ 
]Confusion [x ]Numbness/pain of extremities
[ ] Seizures   [ ] Weakness [ ] Dizziness/Lightheaded [ ]Vertigo 
[ ] Headache
ENDOCRINE:     [] All Normal
[ ] Skin changes  [ ] Hair changes   [ ] Temp subjectivity
HEME/LYMPH:    [] All Normal
[ ] Easy bruising   [ ] Easy bleeding    [ ] Adenopathy
PSYCH:         [] All Normal
[ ] Mood change        []Suicidal Ideation  [ ] Other:  

 
Past Medical History:
Pulmonary nodule
Squamous cell skin cancer
Basal cell carcinoma
Melanoma
OSA
Pulmonary hypertension
Systolic and diastolic heart failure
Osteoarthritis
Gout 
Atrial Fibrillation
Morbid obesity 
Peripheral Vascular disease
Venous insufficiency
Hypertension
Coronary artery disease
Anemia
BPH
Depression
Anxiety
Hypercholesterolemia 
 
Social History:
___
Family History:
Brother had cancer and diabetes
Father had cancer
Sister had cancer and a heart disorder 
 
Physical Exam:
PHYSICAL EXAM: 

VITAL SIGNS: 96.7  132/80  65  18  94% 3L  Weight: pending

PAIN SCORE ___

VS T P BP RR O2Sat Wt, ht, BMI  
GENERAL:  appears comfortable. Non-toxic
Nourishment: obese
Mentation: Alert and oriented, but challenging historian, very 
tangential, and unable to recall details or timelines.
Eyes:NC/AT, PERRL, EOMI without nystagmus, no scleral icterus 
noted  
Ears/Nose/Mouth/Throat: MM sl dry, no lesions noted in OP  
Neck: supple, thick neck, difficult to appreciate JVP 
Respiratory: wet rales to ___ up Bilaterally. Scattered wheezes.
Cardiovascular: RRR, nl. 
Gastrointestinal: soft, NT/ND, normoactive bowel sounds.
Skin: no rashes or lesions noted. No pressure ulcer  
Extremities: Chronic skin changes ___ B, c/w venous stasis.  2+ 
non-pitting edema ___ B. 
Lymphatics/Heme/Immun: No cervical, supraclavicular, axillary or 
inguinal lymphadenopathy noted.  
Neurologic:  
-mental status: Alert, oriented x 3. Has difficulty relaying 
history, timeline
-cranial nerves: II-XII intact  
-motor: normal bulk, strength and tone throughout. No abnormal 
movements noted.  
-sensory: No deficits to light touch throughout.  
-cerebellar: No nystagmus, dysarthria, intention or action 
tremor, dysdiadochokinesia noted. 
No foley catheter/tracheostomy/PEG/ventilator support/chest, 
tube/colostomy  
 

 
Pertinent Results:
CT L-spine (___):
1. No acute fx or malalignment of the L spine. 
2. A small pocket of air in the retroperitoneal space next to 
the spine at 
T11 (image 4:1), incompletely imaged and of uncertain etiology. 
Could 
represent vaccum gas phenomenon. Recommend clinical 
correlations.
RADIOLOGY ATTENDING ADDENDUM
There is some degree of spinal stenosis at L4-5. The severity is 
difficult to evaluate due to overlying artifacts, but it is 
potentially severe. This appears to be due to a combination of 
disk bulging, perhaps protrusion, and facet joint osteophytes. 
MR may be helpful if further evaluation is indicated. There is a 
small collection of gas in the spinal canal on the right, just 
below the L4-5 interspace. This suggests a disk protrusion in 
this location, atlhought there is not sufficient soft tissue 
contrast to fully evaluate it. There is bulging of the disk at 
L5-S1 without evidence of a protrusion. Again, image quality is 
limited and MR may be helpful. 
 
CT Pelvis (___):
1. Large L inguinal hernia, with a loop of bowel in the sac. No 
evidence of obstruction. 
2. bony pelvis noted with DJD, but no acute fx. 

Hip and L-spine X RAY ___: 
No acute fracture or dislocation. Please refer to the concurrent 

CT pelvis for additional findings of a large left inguinal 
hernia. 

Echo (___):
CONCLUSIONS
1. The left ventricle size is normal. There is mild concentric 
left ventricular hypertrophy. Overall left ventricular systolic 
function is low-normal, with an estimated LVEF of 50-55 %. There 
is septal flattening in systole which is consistent with right 
ventricular pressure overload.
2. The left atrium is moderately dilated.
3. The right ventricle is moderately enlarged.  The right 
ventricular systolic function is moderately impaired.
4. The right atrium is moderately dilated.
5. There is mild-to-moderate tricuspid regurgitation present. 
Estimated PA systolic pressure, calculated from peak TR 
velocity,  is 53 mmHg above RA pressure.
6. Compared with the findings of the prior study (images 
reviewed) of ___, right heart findings are worse. However, with 
retrospective review of the prior study (which has even more 
limited imaging of the rightheart than the present study), there 
is probably some early and mild abnormalities of the right 
heart.

___ ECHO 
The left atrium is moderately dilated. The right atrium is 
markedly dilated. There is mild symmetric left ventricular 
hypertrophy with normal cavity size. There is considerable 
beat-to-beat variability of the left ventricular ejection 
fraction due to an irregular rhythm/premature beats. The right 
ventricular cavity is dilated with depressed free wall 
contractility. There is abnormal diastolic septal 
motion/position consistent with right ventricular volume 
overload. The diameters of aorta at the sinus, ascending and 
arch levels are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. The estimated pulmonary artery systolic pressure is 
normal. There is a trivial/physiologic pericardial effusion. 

IMPRESSION: Atrial fibrillation making evaluation of ventricular 
function challenging. Mild symmetric left ventricular 
hypertrophy with preserved global and regional left ventricular 
systolic function. Dilated and hypokinetic right ventricle with 
evidence of volume overload.  

CHEST X RAY PA/LAT ___: 
Findings consistent with moderate pulmonary edema and small left 

pleural effusion in the setting of cardiomegaly. Recommend 
repeat radiograph after diuresis. 

CHEST X RAY AP PORTABLE ___: 
FINDINGS: In comparison with the study of ___, there is little 
overall 
change. Bibasilar atelectasis persists with enlargement of the 
cardiac 
silhouette in a patient with low lung volumes. Some left pleural 
effusion may well be present. However, no definite pulmonary 
edema is appreciated. 
Of incidental note is an azygos fissure, of no clinical 
significance. 

___ 07:55AM BLOOD WBC-5.3 RBC-4.07* Hgb-13.5* Hct-42.1 
MCV-103* MCH-33.2* MCHC-32.1 RDW-16.3* Plt Ct-86*
___ 02:45AM BLOOD WBC-4.7 RBC-3.44* Hgb-11.8* Hct-35.6* 
MCV-103* MCH-34.2* MCHC-33.2 RDW-17.4* Plt Ct-74*
___ 02:45AM BLOOD Neuts-77.0* Lymphs-16.3* Monos-4.0 
Eos-2.3 Baso-0.4
___ 07:55AM BLOOD ___
___ 02:45AM BLOOD ___ PTT-38.1* ___
___ 07:55AM BLOOD Glucose-110* UreaN-47* Creat-1.4* Na-138 
K-3.1* Cl-92* HCO3-39* AnGap-10
___ 02:45AM BLOOD Glucose-129* UreaN-26* Creat-1.3* Na-139 
K-3.1* Cl-97 HCO3-33* AnGap-12
___ 04:21AM BLOOD CK(CPK)-24*
___ 07:30AM BLOOD CK(CPK)-23*
___ 05:28AM BLOOD CK(CPK)-33*
___ 07:15AM BLOOD CK(CPK)-40*
___ 04:21AM BLOOD CK-MB-3 cTropnT-0.05*
___ 07:48PM BLOOD CK-MB-3 cTropnT-0.05*
___ 07:30AM BLOOD CK-MB-3 cTropnT-0.05*
___ 05:28AM BLOOD CK-MB-3 cTropnT-0.04*
___ 07:15AM BLOOD CK-MB-3 cTropnT-0.04*
___ 02:45AM BLOOD proBNP-3632*
___ 07:18AM BLOOD Calcium-9.4 Phos-4.0 Mg-2.4
___ 05:58AM BLOOD Calcium-9.3 Phos-4.3 Mg-2.5
___ 01:55AM BLOOD Calcium-8.9 Phos-3.3 Mg-1.8
___ 06:50PM BLOOD Type-ART pO2-86 pCO2-77* pH-7.41 
calTCO2-51* Base XS-18 Intubat-NOT INTUBA Comment-O2 DELIVER
___ 12:52AM BLOOD Type-ART pO2-51* pCO2-55* pH-7.51* 
calTCO2-45* Base XS-17
___ 02:28AM BLOOD Glucose-122* Lactate-0.9 Na-137 K-3.2* 
Cl-83*
___ 12:52AM BLOOD Glucose-143* Lactate-0.9 Na-136 K-3.3* 
Cl-85*
___ 02:28AM BLOOD freeCa-1.11*
___ 12:52AM BLOOD freeCa-1.09*

___ 2:00 am BLOOD CULTURE x2      Source: Venipuncture. 
   Blood Culture, Routine (Pending): 

___ 12:28 am URINE     Site: CLEAN CATCH
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

 
Brief Hospital Course:
___ y/o male who presented with atraumatic left hip, left low 
back, and occassional bilateral lower extremity pain worse with 
standing and without neurological symptoms likely due to spinal 
stenosis who was transferred to the ICU for hypoxia. 

Hypoxia / acute on chronic diastolic CHF:  Patient presented 
with a new oxygen requirement, satting 94% on 3L NC with 
bilateral rales on exam and a reported 10 lb weight gain over 
his dry weight with concern for pulmonary edema. CXR revealed 
moderate pulmonary edema and small left pleural effusion in the 
setting of cardiomegaly, BNP was > 3000. He ruled out for an MI, 
his repeat echocardiogram revealed a normal EF and mild LVH.  
The patient was initially doing well on the floor early in his 
admission. The patient was transferred to the ICU for hypoxia 
related to worsening pulmonary edema.  In addition the patient 
was diuresed and developed a contraction alkylosis, and he was 
treated with diamox to help correct this.  He was given 
agressive potassium repletion during diuresis and his potassium 
remained at 3.1 upon discharge.  He was discharged home at his 
dry weight of 175 lbs, had a room air O2 sat of 97% and a 
ambulatory O2 sat on room air of 91%.  He was ambulating well 
but will get home ___, and given his admission for heart failure 
he was referred for tele health to help with diuretic management 
should he gain greater than 3 pounds above his dry weight.  He 
was continued on his beta blocker and his home dose of lasix 
120mg po bid.  His obstructive sleep apnea is likely a dominant 
cause in his R heart failure related to moderate pulmonary 
hypertension and is treated with CPAP.

Back and Leg pain: CT demonstrated mild degenerative changes in 
the pelvis but no fractures.  He was noted to have spinal 
stenosis. Patient received Tylenol standing and Oxycodone PRN 
for breakthrough pain. ___ consult was also provided. Pain and 
mobility improved.  Given the improvement in his symptoms he was 
treated conservatively however an MRI of the spine is indicated 
as an outpatient to further assess for severity of spinal 
stenosis.

Obstructive sleep apnea: Patient was maintained on CPAP at 
night. 

Atrial Fibrillation: Patient was on Metoprolol for rate control 
and Warfarin for anti-coagulation at home. INR was therapeutic 
on admission, was down to 1.5 on discharge, he was given 7.5mg 
po x 1 on ___ then continued on 6.25mg po daily until his 
follow up on ___ with his PCP and warfarin dosing can be 
adjusted.  

Peripheral vascular disease: Patient was on Aspirin at home and 
was continued throughout hospitalization. 

Hypertension: Patient was continued on Metoprolol and Lasix. 

Coronary Artery Disease: Continued on Aspirin and Metoprolol per 
above. 

History of Melanoma and Squamous Cell Cancer: No known current 
recurrence.
 
Medications on Admission:
Lasix 120 mg Tab Oral Twice Daily
Coumadin 6.25mgx3days(m.th.sat) Tablet(s) Once Daily, 5mg x4days 
or as directed
oxybutynin chloride 5 mg Tab Once Daily   
finasteride 5 mg Tab Once Daily  
Singulair 10 mg Tab Oral at bedtime
Lopressor 150 mg Tab Twice Daily  
allopurinol ___ mg Tab Oral Once Daily
lansoprazole 30 mg Cap, Delayed Release 1 Capsule, Twice Daily
Athlete's Foot (clotrimazole) 1 % Topical Cream Topical 1 
Cream(s) Twice Daily  
potassium 75 mg Tab Oral unknown times daily
nystatin 100,000 unit/mL Oral Susp Oral 1 tablespoon 
Suspension(s) Twice Daily
Levaquin 500 mg Tab Oral 1 Tablet(s) Once Daily 
iodoquinol -- Unknown Strength 1 Tablet(s) Twice Daily 
*clindamycin 1% 1 Twice Daily 
Voltaren 1 % Topical Gel Topical 4 grams Gel(s) Four times daily 

colchicine 0.6 mg Tab Oral 1 Tablet(s) Once Daily   
metolazone 2.5 mg Tab Oral 1 Tablet(s) Once Daily, 30min prior 
to a.m lasix
Ferrex ___ mg Cap Oral 1 Capsule(s) Once Daily  
nitroglycerin 0.4 mg Sublingual Tab Sublingual 1 Tablet, 
Sublingual(s) , as needed  
aspirin 81 mg Tab Oral Daily
Multivitamin Tab Once Daily  
albuterol sulfate 5 mg/mL (0.5 %) Neb Solution as needed  
Flovent Diskus 100 mcg/Actuation for Inhalation 4 puffs q am

 
Discharge Medications:
1. Lasix 40 mg Tablet Sig: Three (3) Tablet PO twice a day.  
2. Coumadin 2.5 mg Tablet Sig: as directed Tablet PO once a day: 
take 2.5 tablets (6.25mg) daily until your follow up on ___, 
your dose may be adjusted after this.  
3. oxybutynin chloride 5 mg Tablet Sig: One (1) Tablet PO once a 
day.  
4. finasteride 5 mg Tablet Sig: One (1) Tablet PO once a day.  
5. montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Lopressor 50 mg Tablet Sig: Three (3) Tablet PO twice a day.  

7. allopurinol ___ mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
8. lansoprazole 30 mg Capsule, Delayed Release(E.C.) Sig: One 
(1) Capsule, Delayed Release(E.C.) PO once a day.  
9. Klor-Con M20 20 mEq Tab Sust.Rel. Particle/Crystal Sig: Three 
(3) Tab Sust.Rel. Particle/Crystal PO once a day.  
10. colchicine 0.6 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Ferrex ___ mg Capsule Sig: One (1) Capsule PO once a 
day.  
12. nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1) tablet 
Sublingual once a day as needed for chest pain.  
13. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
14. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
15. Flovent Diskus 100 mcg/Actuation Disk with Device Sig: Four 
(4) puffs Inhalation once a day.  
16. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) nebulizer Inhalation Q6H (every 6 
hours) as needed for SOB.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# Acute on chronic systolic and diastolic heart failure
# Respiratory failure
# metabolic alkalosis
# Spinal stenosis
# Obstructive sleep apnea
# Atrial fibrillation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with back and leg pain due to spinal stenosis, 
but were found to be in significant heart failure.  You were 
treated with medications to remove fluid from your body.  

Please take your medications as prescribed and make your follow 
up appointments.
 
Followup Instructions:
___